US06867204B2
A solution of 8-(4-tert-butoxycarbonyl-piperazin-1-yl)-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester (640 mg, 1.32 mmol) in ethanol (10 mL) was hydrogenated at 50 psi in the presence of palladium on carbon for 12 hours. The catalyst was removed by filtration, and the filtrate was concentrated to give 4-(3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester as a light yellow solid (350 mg, 84%). MS: MH+=320.

reactant | 8-(4-tert-butoxycarbonyl-piperazin-1-yl)-6-chloro-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid benzyl ester | 1.32 mmol, 640 mg | C(C1=CC=CC=C1)OC(=O)N1CCOC2=C1C=C(C=C2N2CCN(CC2)C(=O)OC(C)(C)C)Cl | C25H30ClN3O5
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-piperazine-1-carboxylic acid tert-butyl ester | 350 mg, 84% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=CC=2NCCOC21 | C17H25N3O3
